US04604390
2-[[2-(5-Nitro-2H-[1]benzopyrano[4,3,2-cd]-indazol-2-yl)ethyl]amino]ethanol, monohydrochloride
A suspension of 2.76 g of 1-chloro-4-nitro-9H-xanthen-9-one, 30 ml of THF, 15 ml of methanol and 1.40 g of 2-[(hydrazinoethyl)amino]-ethanol was stirred at room temperature for three days. The precipitate was collected, washed with THF and dried, providing the title compound, mp 262°-64° C. (decomp.).

reactant | 1-chloro-4-nitro-9H-xanthen-9-one | 2.76 g | ClC1=CC=C(C=2OC3=CC=CC=C3C(C12)=O)[N+](=O)[O-] | C13H6ClNO4
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | 2-[(hydrazinoethyl)amino]-ethanol | 1.40 g | N(N)CCNCCO | C4H13N3O
solvent | methanol | 15 ml | CO | CH4O
product | 2-[[2-(5-Nitro-2H-[1]benzopyrano[4,3,2-cd]-indazol-2-yl)ethyl]amino]ethanol, monohydrochloride | Cl.[N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCNCCO)C1=C(O2)C=CC=C1 | InChI=1S/C17H16N4O4.ClH/c22-10-8-18-7-9-20-12-5-6-13(21(23)24)17-15(12)16(19-20)11-3-1-2-4-14(11)25-17;/h1-6,18,22H,7-10H2;1H
